US05472978
3,5-Dimethylbenzyl 2-(1,1-dimethylethoxycarbonylamino)-3-(3-indolyl)propionate (1.0 g) was dissolved in dry tetrahydrofuran (20 ml). Saturated methanolic hydrochloric acid (10 ml) was added and the reaction was stirred for 16 hours. The solvent was removed in vacuo and the residue was recrystallised from ethanol/diethyl ether to yield 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride (0.71 g), m.p. 213°-214° C. 1H NMR (360 MHz D6DMSO) δ11.09 (1H, s), 8.64 (1H, s), 7.51 (1H, d, J=7 Hz), 7.38 (1H, d, J=7 Hz), 7.20 (1H, d, J=2 Hz), 7.10 (1H, t, J=7 Hz), 6.98 (1H, t, J=7 Hz), 6.94 (1H, s), 6.76 (2H, s). Found: C, 66.25; H, 6.67; N, 7.71, C20H22N2O2. HCl. 0.25(H2O) requires C, 66.11; H, 6.52; N, 7.71%.

reactant | 3,5-Dimethylbenzyl 2-(1,1-dimethylethoxycarbonylamino)-3-(3-indolyl)propionate | 1.0 g | CC(C)(OC(=O)NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12)C | C25H30N2O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride | 0.71 g | Cl.NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12 | InChI=1S/C20H22N2O2.ClH/c1-13-7-14(2)9-15(8-13)12-24-20(23)18(21)10-16-11-22-19-6-4-3-5-17(16)19;/h3-9,11,18,22H,10,12,21H2,1-2H3;1H
